US04291171
Carefully controlled reaction conditions are required because the addition of a nucleophile (nitro- or halonitroalkyl ion) to a methylenemalonate ester gives the salt of an alkylmalonate which is itself capable of undergoing further nucleophilic reactions. Nitroform, a strong acid, reacts with diethyl methylenemalonate in aqueous methanol at ambient temperature, without a base as catalyst, to produce diethyl 2,2,2-trinitroethylmalonate. The same conditions may also be used to produce dimethyl 2,2,2-trinitroethylmalonate. The reaction of 1,1-dinitroethane with methylenemalonates does not take place under these conditions, presumably because the nitro compound is not sufficiently ionized. However, the addition of triethylamine to an ether solution of 1,1-dinitroethane and dimethyl methlenemalonate at 0° C. resulted in a 72% yield of dimethyl 2,2-dinitropropylmalonate. In the same manner, diethyl 2,2-dinitropropylmalonate may be prepared. Finally, the addition fluorodinitromethane to methylenemalonates in ether solution in the presence of catalytic amounts of pyridine produces good yields of dimethyl and diethyl 2-fluoro-2,2-dinitroethylmalonates.

reactant | Nitroform | C([N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | CHN3O6
reactant | diethyl methylenemalonate | C=C(C(=O)OCC)C(=O)OCC | C8H12O4
solvent | methanol | CO | CH4O
product | diethyl 2,2,2-trinitroethylmalonate | [N+](=O)([O-])C(CC(C(=O)OCC)C(=O)OCC)([N+](=O)[O-])[N+](=O)[O-] | C9H13N3O10
